US07115619B2
5-Chloro (2-Pivaloylaminobenzene) boronic acid (24)
(Method G-2) Under an atmosphere of nitrogen, n-butyllithium (22.75 mL, 2.2 eq) was slowly added to a solution of 4-chloropivaloylamino benzene (16.5 g, 0.078 mol) in dry THF (360 mL) at 0° C. After 2 hrs the mixture was cooled to −78° C. and trimethylborate (19.5 mL, 2.2 eq) slowly added. The mixture was allowed to warm to −15° C. and stirred for 2.5 hrs giving a clear colourless solution. Water (90 mL) was added, the lower, aqueous layer removed, washed with dichloromethane (150 mL) and acidified (90 mL 2M HCl) giving the title compound as a white solid (12.6 g, 0.049 mol, 63.2%). See, for example, Timari et al, 1996.

reactant | n-butyllithium | 22.75 mL, 2.2 eq | C(CCC)[Li]
reactant | 4-chloropivaloylamino benzene | 0.078 mol, 16.5 g | ClC1=CC=C(C=C1)NC(C(C)(C)C)=O | C11H14ClNO
reactant | trimethylborate | 19.5 mL, 2.2 eq | COB(OC)OC | C3H9BO3
reactant | Water | 90 mL | O | H2O
solvent | THF | 360 mL | C1CCOC1 | C4H8O
product | 5-Chloro (2-Pivaloylaminobenzene) boronic acid | 0.049 mol, 12.6 g, 63.2% | B(O)O.ClC=1C=CC(=CC1)NC(C(C)(C)C)=O | InChI=1S/C11H14ClNO.BH3O2/c1-11(2,3)10(14)13-9-6-4-8(12)5-7-9;2-1-3/h4-7H,1-3H3,(H,13,14);1-3H
